US05977105
(b) (2R)-2-(tert-Butyldimethylsilyloxy)-4-(3-pyridyl)-1-(3-trifluoromethylbiphenyl-4-yloxy)butane
Prepared according to the method as described in Example 33a) from (2R)-1-(4-bromo-2-trifluoromethylphenoxy)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)butane (1.0 g, ~67% pure), benzeneboronic acid (0.18 g), tetrakis(triphenylphosphine)palladium(0) (0.035 g), toluene (10 ml), ethanol (2 ml) and aqueous sodium carbonate (2 M, 1.45 ml) with heating at 120° C. for 1 hour. After work up the residue was purified by chromatography over silica eluting with ethyl acetate:hexane (1:9) to give an impure sample of the sub-title compound as a light brown oil (0.80 g, ~67% pure).

reactant | (2R)-1-(4-bromo-2-trifluoromethylphenoxy)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)butane | 1.0 g | BrC1=CC(=C(OC[C@@H](CCC=2C=NC=CC2)O[Si](C)(C)C(C)(C)C)C=C1)C(F)(F)F | C22H29BrF3NO2Si
reactant | benzeneboronic acid | 0.18 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2 M, 1.45 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.035 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (2R)-2-(tert-Butyldimethylsilyloxy)-4-(3-pyridyl)-1-(3-trifluoromethylbiphenyl-4-yloxy)butane | 0.80 g, ~67% | [Si](C)(C)(C(C)(C)C)O[C@@H](COC1=C(C=C(C=C1)C1=CC=CC=C1)C(F)(F)F)CCC=1C=NC=CC1 | C28H34F3NO2Si
